### PR TITLE
[Merged by Bors] - feat(RingTheory): definition of regular local ring

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we give the definition of regular local ring.
The class `IsRegularLocalRing` is defined as `(maximalIdeal R).spanFinrank = ringKrullDim R`
We also established the lemma `IsRegularLocalRing.iff_finrank_cotangentSpace` proving this definition is equivalent to the cotangent space version.

---

- [x] depends on: #35337

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+-/
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
+  reg : (Submodule.spanFinrank (maximalIdeal R)) = ringKrullDim R
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]:
```suggestion
  reg : Submodule.spanFinrank (maximalIdeal R) = ringKrullDim R
```

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+
+lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ (Submodule.spanFinrank (maximalIdeal R)) = ringKrullDim R :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]:
```suggestion
    IsRegularLocalRing R ↔ Submodule.spanFinrank (maximalIdeal R) = ringKrullDim R :=
```
(and below)

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
+/-
+Copyright (c) 2025 Nailin Guan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan
+-/
+import Mathlib.RingTheory.Ideal.Cotangent
+import Mathlib.RingTheory.Ideal.KrullsHeightTheorem
+/-!
+# Define Regular Local Ring
+-/
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: Could you please add a docstring here explaining which definition for a regular local ring is chosen?

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ (Submodule.spanFinrank (maximalIdeal R)) = ringKrullDim R :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
+
+lemma ringKrullDim_le_spanFinrank_maximalIdeal [IsLocalRing R] [IsNoetherianRing R] :
+    ringKrullDim R ≤ (Submodule.spanFinrank (maximalIdeal R)) :=
+  le_of_eq_of_le IsLocalRing.maximalIdeal_height_eq_ringKrullDim.symm
+    (WithBot.coe_le_coe.mpr (Ideal.height_le_spanFinrank (maximalIdeal R) Ideal.IsPrime.ne_top'))
+
+lemma isRegularLocalRing_of_exist_span [IsLocalRing R] [IsNoetherianRing R] (S : Finset R)
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]:
```suggestion
lemma isRegularLocalRing_of_span_eq_of_card_le_ringKrullDim [IsLocalRing R] [IsNoetherianRing R] (S : Finset R)
```
Or possibly without the `of_span_eq`. Also, I think this lemma would be easier to use if you took `(s : Set R) (hs : s.Finite)` as assumptions.

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+lemma IsLocalRing.comap_maximalIdeal [IsLocalRing R] {R' : Type*} [CommRing R'] [IsLocalRing R']
+    (e : R ≃+* R') : maximalIdeal R = Ideal.comap e (maximalIdeal R') := by
+  ext
+  simp
+
+variable {R} in
+lemma IsLocalRing.map_maximalIdeal [IsLocalRing R] {R' : Type*} [CommRing R'] [IsLocalRing R']
+    (e : R ≃+* R') : Ideal.map e (maximalIdeal R) = maximalIdeal R' := by
+  rw [← Ideal.map_comap_of_surjective _ e.surjective (maximalIdeal R'),
+    IsLocalRing.comap_maximalIdeal e]
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: These two look out of place.

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+    Submodule.span R S = ⊤ ↔ Submodule.span R ((Submodule.subtype (maximalIdeal R)) '' S) =
+    maximalIdeal R := by
+  rw [← Submodule.map_span]
+  refine ⟨fun h ↦ by simp [h], fun h ↦ ?_⟩
+  rw [← Submodule.comap_map_eq_of_injective (maximalIdeal R).injective_subtype
+    (Submodule.span R S), h, Submodule.comap_subtype_self]
+
+open Set in
+lemma spanFinrank_maximalIdeal [IsLocalRing R] [IsNoetherianRing R] :
+    (Submodule.spanFinrank (maximalIdeal R)) =
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: Please mention this lemma in the docstring of the definition of `IsRegularLocalRing`, to make it clear that your definition is equivalent to the cotangent space one.

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 7]
```diff
@@ -0,0 +1,110 @@
...
+# Define Regular Local Ring
+-/
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: I think this definition is fine, but I am wondering if we should put "Noetherian" in the name. I believe that sometimes people define "regular local ring" without Noetherian, but then they define it via finite global dimension.
Showing that for a Noetherian local ring, your definition agrees with the finite global dimension definition is a nice piece of mathematics, but would be much more work.

**Review by chrisflav — COMMENTED** [review]
I am happy to see that someone finally went forward and pinned down a definition.

**Comment by chrisflav** [comment]
Please also extend the PR description by which definition you choose and that you show it is equivalent to the Cotangent space one.

**Comment by Thmoas-Guan** [comment]
> I am happy to see that someone finally went forward and pinned down a definition.

I choose this definition only because it depends the least to state, maybe there are other opinions I haven't heard of, but at least it can be easily changed to the cotangent space definition. And thanks for the help, these PR are currently a bit messy.

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Let's keep the definition and name as is for now. This won't stop us to prove the theorem by Serre I mention above. When we have that one, we can consider to redefine `IsRegularLocalRing` to mean "finite global dimension" and drop the `IsNoetherianRing` assumption.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: We are actually planning to prove it is equivalent to finite global dimension, but the missing `Tor` stopped us...

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: As far as the referneces I found, they all added noetherian, and at least I think we need maximalIdeal is fg or else some ring with not fg maximal Ideal of dimesion 0 would get in.

**Comment by chrisflav** [comment]
> > I am happy to see that someone finally went forward and pinned down a definition.
> 
> I choose this definition only because it depends the least to state, maybe there are other opinions I haven't heard of, but at least it can be easily changed to the cotangent space definition. And thanks for the help, these PR are currently a bit messy.

I personally would have chosen the cotangent space definition, but it really does not matter, so please stick to your definition. Other people wanted to go via regular sequences, but as far as I can tell, this is also on your roadmap?

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 4 above)
Comment (mbkybky) [reply Mathlib/RingTheory/RegularLocalRing.lean]: I think it might be better to put this theorem in the `IsRegularLocalRing` namespace.

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RegularLocalRing.lean]: With your definition you definitely need `IsNoetherianRing`, but with the finite global dimension one, you can drop it (but of course in general it will give you a different answer for non Noetherian rings).

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Yes that is even better.

**Comment by Thmoas-Guan** [comment]
What on my roadmap? Regular system of parameters is regular seqence? If this then it is in #28683

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 6 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: I added a lemma straight from cotangent version to regular

**Comment by chrisflav** [comment]
> What on my roadmap? Regular system of parameters is regular seqence? If this then it is in #28683

~~Do you also have the converse? If the maximal ideal is generated by a regular sequence of length `dim R`, then `R` is regular?~~ (this is trivial and already contained in this PR)
Yes, wonderful. Then I am very happy with your definition in this PR.

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Removed (got another way around)

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: I used dot notation, I think even better

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Added

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 8]
```diff
@@ -0,0 +1,117 @@
...
+        (Submodule.FG.finite_generators fg')
+    rw [← IsLocalRing.CotangentSpace.span_image_eq_top_iff.mpr this,
+      ← Submodule.FG.generators_ncard fg']
+    apply le_trans (Submodule.spanFinrank_span_le_ncard_of_finite (Finite.image _ fin))
+    exact le_trans (Set.ncard_image_le fin) (Set.ncard_le_ncard_of_injOn Subtype.val (by simp [G])
+      injOn_subtype_val (Submodule.FG.finite_generators fg'))
+
+lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ Module.finrank (ResidueField R) (CotangentSpace R) = ringKrullDim R := by
+  rw [isRegularLocalRing_def, spanFinrank_maximalIdeal]
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: Please refer to this in the docstring of `IsRegularLocalRing`, something like "This is equivalent to the dimension of the cotangent space over the residue field being equal to the Krull dimension (see `isRegularLocalRing_iff`)."

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 9]
```diff
@@ -0,0 +1,117 @@
...
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
+  reg : (maximalIdeal R).spanFinrank = ringKrullDim R
+
+lemma isRegularLocalRing_def [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ (maximalIdeal R).spanFinrank = ringKrullDim R :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: If you add @[mk_iff] to`IsRegularLocalRing`, this lemma is generated under the name `isRegularLocalRing_iff`.

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 10]
```diff
@@ -0,0 +1,117 @@
...
+      simpa using fun a ↦ Submodule.FG.generators_mem (maximalIdeal R) a
+    have fin : G.Finite := Set.Finite.of_injOn (by simp [MapsTo, G]) injOn_subtype_val
+        (Submodule.FG.finite_generators fg')
+    rw [← IsLocalRing.CotangentSpace.span_image_eq_top_iff.mpr this,
+      ← Submodule.FG.generators_ncard fg']
+    apply le_trans (Submodule.spanFinrank_span_le_ncard_of_finite (Finite.image _ fin))
+    exact le_trans (Set.ncard_image_le fin) (Set.ncard_le_ncard_of_injOn Subtype.val (by simp [G])
+      injOn_subtype_val (Submodule.FG.finite_generators fg'))
+
+lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]:
```suggestion
lemma IsRegularLocalRing.iff_finrank_cotangentSpace [IsLocalRing R] [IsNoetherianRing R] :
```

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 11]
```diff
@@ -0,0 +1,117 @@
...
+  reg : (maximalIdeal R).spanFinrank = ringKrullDim R
+
+lemma isRegularLocalRing_def [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ (maximalIdeal R).spanFinrank = ringKrullDim R :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
+
+lemma ringKrullDim_le_spanFinrank_maximalIdeal [IsLocalRing R] [IsNoetherianRing R] :
+    ringKrullDim R ≤ (maximalIdeal R).spanFinrank :=
+  le_of_eq_of_le IsLocalRing.maximalIdeal_height_eq_ringKrullDim.symm
+    (WithBot.coe_le_coe.mpr (Ideal.height_le_spanFinrank (maximalIdeal R) Ideal.IsPrime.ne_top'))
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: This should go in an earlier file.

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
...
+  apply le_trans _ card
+  rw [← span, ← Ideal.submodule_span_eq]
+  simpa using Submodule.spanFinrank_span_le_ncard_of_finite fin
+
+variable {R} in
+lemma of_ringEquiv [IsRegularLocalRing R] {R' : Type*} [CommRing R']
+    (e : R ≃+* R') : IsRegularLocalRing R' := by
+  let _ := e.isLocalRing
+  let _ := isNoetherianRing_of_ringEquiv R e
+  have fg : (maximalIdeal R).FG := (isNoetherianRing_iff_ideal_fg R).mp inferInstance _
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: Could you please add `Ideal.FG.of_isNoetherianRing` right next to `isNoetherianRing_iff_ideal_fg` and use this here?

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 13]
```diff
@@ -0,0 +1,117 @@
...
+lemma span_eq_top_iff [IsLocalRing R] (S : Set (maximalIdeal R)) :
+    Submodule.span R S = ⊤ ↔ Submodule.span R ((Submodule.subtype (maximalIdeal R)) '' S) =
+    maximalIdeal R := by
+  rw [← Submodule.map_span]
+  refine ⟨fun h ↦ by simp [h], fun h ↦ ?_⟩
+  rw [← Submodule.comap_map_eq_of_injective (maximalIdeal R).injective_subtype
+    (Submodule.span R S), h, Submodule.comap_subtype_self]
+
+open Set in
+lemma spanFinrank_maximalIdeal [IsLocalRing R] [IsNoetherianRing R] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]:
```suggestion
lemma IsLocalRing.spanFinrank_maximalIdeal_eq_finrank_cotangentSpace [IsLocalRing R] [IsNoetherianRing R] :
```

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 14]
```diff
@@ -0,0 +1,117 @@
...
+    (maximalIdeal R).spanFinrank = Module.finrank (ResidueField R) (CotangentSpace R) := by
+  let fg : Module.Finite (ResidueField R) (CotangentSpace R) := inferInstance
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: Why is this needed?

File: Mathlib/RingTheory/RegularLocalRing.lean [hunk 15]
```diff
@@ -0,0 +1,117 @@
...
+    exact ((local_hom_TFAE e.symm.toRingHom).out 0 4).mp (e.symm.surjective.isLocalHom _)
+  · simpa [← ringKrullDim_eq_of_ringEquiv e, ← IsRegularLocalRing.reg,
+      ← Submodule.FG.generators_ncard fg] using
+      Set.ncard_image_le (Submodule.FG.finite_generators fg)
+
+end IsRegularLocalRing
+
+lemma span_eq_top_iff [IsLocalRing R] (S : Set (maximalIdeal R)) :
+    Submodule.span R S = ⊤ ↔ Submodule.span R ((Submodule.subtype (maximalIdeal R)) '' S) =
+    maximalIdeal R := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing.lean]: This looks out of place and a bit odd. This has nothing to do with `IsLocalRing.maximalIdeal`, could you generalize to an arbitrary ideal? The proof should be using `Submodule.map_injective_of_injective` (and then you might be able to just inline it) and `Function.Injective.eq_iff`.

**Comment by Thmoas-Guan** [comment]
Sorry that I just move the file, I'll try to address the comments

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 14 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Sometimes I use this equation directly instead of the cotangent space version iff IsRegularLocalRing, not only in proving the equivalence of two definitions.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: In some lemmas, I need to fill in `Submodule.FG` instance by using `fg.1`, so I put this here.

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: I inlined it.

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 9 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Which name do you prefer? If there is a reason to name it `iff` then I'll use @[mk_iff]

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: I am naming the cotangent space version  as `_iff`, so I may need to keep the current naming?

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 16]
```diff
@@ -0,0 +1,76 @@
...
+@[expose] public section
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
+  reg : (maximalIdeal R).spanFinrank = ringKrullDim R
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
  spanFinrank_maximalIdeal : (maximalIdeal R).spanFinrank = ringKrullDim R
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,76 @@
...
+# Define Regular Local Ring
+
+For a noetherian local ring `R`, we define `IsRegularLocalRing` as
+`(maximalIdeal R).spanFinrank = ringKrullDim R`. This definition is equivalent to
+the dimension of the cotangent space over the residue field being equal to `ringKrullDim R`,
+(see `IsRegularLocalRing.iff_finrank_cotangentSpace`).
+
+# Main Definition and Results
+
+* `IsRegularLocalRing` : A noetherian local ring of dimesnion `d` `IsRegularLocalRing` if
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
* `IsRegularLocalRing` : A noetherian local ring is regular if
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,76 @@
...
+
+@[expose] public section
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
@[mk_iff]
class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
```
Then you can drop your `isRegularLocalRing_def` lemma (it will be `isRegularLocalRing_iff`)

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 19]
```diff
@@ -0,0 +1,76 @@
...
+For a noetherian local ring `R`, we define `IsRegularLocalRing` as
+`(maximalIdeal R).spanFinrank = ringKrullDim R`. This definition is equivalent to
+the dimension of the cotangent space over the residue field being equal to `ringKrullDim R`,
+(see `IsRegularLocalRing.iff_finrank_cotangentSpace`).
+
+# Main Definition and Results
+
+* `IsRegularLocalRing` : A noetherian local ring of dimesnion `d` `IsRegularLocalRing` if
+  `(maximalIdeal R).spanFinrank = ringKrullDim R`,
+  i.e. its maximal ideal can be generated by `d` elements.
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
  i.e. its maximal ideal can be generated by `dim R` elements.
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 20]
```diff
@@ -0,0 +1,76 @@
...
+-/
+
+@[expose] public section
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian local ring of dimesnion `d` is said to be regular if its maximal ideal
+can be generated by `d` elements. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
/-- A noetherian local ring is said to be regular if its maximal ideal
can be generated by `dim R` elements. -/
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,76 @@
...
+    ringKrullDim R ≤ (maximalIdeal R).spanFinrank :=
+  le_of_eq_of_le IsLocalRing.maximalIdeal_height_eq_ringKrullDim.symm
+    (WithBot.coe_le_coe.mpr (Ideal.height_le_spanFinrank (maximalIdeal R) Ideal.IsPrime.ne_top'))
+
+namespace IsRegularLocalRing
+
+lemma of_span_eq [IsLocalRing R] [IsNoetherianRing R] (S : Set R) (fin : S.Finite)
+    (span : Ideal.span S = maximalIdeal R) (card : S.ncard ≤ ringKrullDim R) :
+    IsRegularLocalRing R := by
+  apply (isRegularLocalRing_def _).mpr (le_antisymm _ (ringKrullDim_le_spanFinrank_maximalIdeal R))
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: Could you please add a lemma `IsRegularLocalRing.of_spanFinrank_maximalIdeal_le` (and replace this line with that lemma)?

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,76 @@
...
+  · rw [← Ideal.map_span, ← Ideal.submodule_span_eq, Submodule.span_generators , ← Ideal.comap_symm]
+    exact ((local_hom_TFAE e.symm.toRingHom).out 0 4).mp (e.symm.surjective.isLocalHom _)
+  · simpa [← ringKrullDim_eq_of_ringEquiv e, ← IsRegularLocalRing.reg,
+      ← Submodule.FG.generators_ncard fg] using Set.ncard_image_le fg.finite_generators
+
+end IsRegularLocalRing
+
+lemma IsRegularLocalRing.iff_finrank_cotangentSpace [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ Module.finrank (ResidueField R) (CotangentSpace R) = ringKrullDim R := by
+  rw [isRegularLocalRing_def, spanFinrank_maximalIdeal_eq_finrank_cotangentSpace]
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
lemma iff_finrank_cotangentSpace [IsLocalRing R] [IsNoetherianRing R] :
    IsRegularLocalRing R ↔ Module.finrank (ResidueField R) (CotangentSpace R) = ringKrullDim R := by
  rw [isRegularLocalRing_def, spanFinrank_maximalIdeal_eq_finrank_cotangentSpace]

end IsRegularLocalRing
```
Why not this?

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Oh, just rereading this comment. The cotangent space version is not called `_iff`? So there seems to be no conflict.

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 23]
```diff
@@ -278,4 +279,44 @@ theorem finrank_cotangentSpace_le_one_iff [IsNoetherianRing R] :
     Submodule.map_top, range_subtype, eq_comm (a := maximalIdeal R)]
   exact ⟨fun ⟨x, h⟩ ↦ ⟨_, h⟩, fun ⟨x, h⟩ ↦ ⟨⟨x, h ▸ subset_span (Set.mem_singleton x)⟩, h⟩⟩
 
+lemma spanFinrank_maximalIdeal_eq_finrank_cotangentSpace [IsNoetherianRing R] :
+    (maximalIdeal R).spanFinrank = Module.finrank (ResidueField R) (CotangentSpace R) := by
+  have eqtop (S : Set (maximalIdeal R)) : Submodule.span R S = ⊤ ↔
+    Submodule.span R ((Submodule.subtype (maximalIdeal R)) '' S) = maximalIdeal R := by
+    simp only [← Submodule.map_span, ← (maximalIdeal R).range_subtype , ← Submodule.map_top,
+    (Submodule.map_injective_of_injective (maximalIdeal R).injective_subtype).eq_iff]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Cotangent.lean]:
```suggestion
  have eqtop (S : Set (maximalIdeal R)) : Submodule.span R S = ⊤ ↔
      Submodule.span R (Subtype.val '' S) = maximalIdeal R := by
    simp [← (Submodule.map_injective_of_injective (maximalIdeal R).injective_subtype).eq_iff,
      Submodule.map_span]
```
Could you please make this a separate lemma? (For actual submodules, not ideals).

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 24]
```diff
@@ -278,4 +279,44 @@ theorem finrank_cotangentSpace_le_one_iff [IsNoetherianRing R] :
...
+  have fg : Module.Finite (ResidueField R) (CotangentSpace R) := inferInstance
+  have fg' : Submodule.FG (maximalIdeal R) := Ideal.fg_of_isNoetherianRing (maximalIdeal R)
+  have : Submodule.spanFinrank (⊤ : Submodule (ResidueField R) (CotangentSpace R)) =
+    Module.rank (ResidueField R) (CotangentSpace R) := by
+    rw [← Submodule.fg_iff_spanRank_eq_spanFinrank.mpr fg.1, Submodule.rank_eq_spanRank_of_free]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Cotangent.lean]: Please add a lemma `Submodule.FG.spanRank_eq_spanFinrank` and use it here.

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 25]
```diff
@@ -278,4 +279,44 @@ theorem finrank_cotangentSpace_le_one_iff [IsNoetherianRing R] :
     Submodule.map_top, range_subtype, eq_comm (a := maximalIdeal R)]
   exact ⟨fun ⟨x, h⟩ ↦ ⟨_, h⟩, fun ⟨x, h⟩ ↦ ⟨⟨x, h ▸ subset_span (Set.mem_singleton x)⟩, h⟩⟩
 
+lemma spanFinrank_maximalIdeal_eq_finrank_cotangentSpace [IsNoetherianRing R] :
+    (maximalIdeal R).spanFinrank = Module.finrank (ResidueField R) (CotangentSpace R) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Cotangent.lean]: The `RHS \le LHS` direction holds more generally without `IsNoetherianRing` for `spanRank` and `Module.rank`. For example like so:
```
-- move
lemma Submodule.span_val_image_eq_iff {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
    (p : Submodule R M) (s : Set p) :
    Submodule.span R (Subtype.val '' s) = p ↔ Submodule.span R s = ⊤ := by
  simp [← (Submodule.map_injective_of_injective p.injective_subtype).eq_iff, Submodule.map_span]

-- move
lemma Submodule.le_spanRank_iff {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
    (p : Submodule R M) (a : Cardinal) :
    a ≤ p.spanRank ↔ ∀ (s : Set M), Submodule.span R s = p → a ≤ Cardinal.mk s := by
  rw [Submodule.spanRank, le_ciInf_iff (by simp)]
  simp

-- move
lemma Submodule.le_spanRank_iff' {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
    (p : Submodule R M) (a : Cardinal) :
    a ≤ p.spanRank ↔ ∀ (s : Set p), Submodule.span R s = ⊤ → a ≤ Cardinal.mk s := by
  rw [Submodule.le_spanRank_iff]
  simp_rw [← Submodule.span_val_image_eq_iff]
  refine ⟨fun h s hs ↦ ?_, fun h s hs ↦ ?_⟩
  · refine le_trans (h (Subtype.val '' s) hs) ?_
    exact Cardinal.mk_image_le
  · refine le_trans (h (Subtype.val ⁻¹' s) ?_) ?_
    · rwa [Set.image_preimage_eq_of_subset (by simp [← hs])]
    · apply Cardinal.mk_le_of_injective (f := s.restrictPreimage Subtype.val)
      exact Set.restrictPreimage_injective _ Subtype.val_injective

lemma Ideal.rank_cotangent_le_spanRank {R : Type*} [CommRing R] [Nontrivial R] (m : Ideal R)
    [m.IsMaximal] : Module.rank (R ⧸ m) m.Cotangent ≤ m.spanRank := by
  rw [Submodule.le_spanRank_iff']
  refine fun s hs ↦ le_trans Submodule.rank_le_spanRank ?_
  rw [Submodule.FG.spanRank_le_iff_exists_span_set_card_le]
  refine ⟨m.toCotangent '' s, Cardinal.mk_image_le, ?_⟩
  apply Submodule.span_eq_top_of_span_eq_top (R := R)
  rw [← Submodule.map_span, ← LinearMap.range_eq_top_of_surjective _ m.toCotangent_surjective,
    ← Submodule.map_top, ← hs]
```
The other direction should also only need `(maximalIdeal R).FG`.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean (hunk 18 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean]: I think this `mk_iff` isn't working correctly, so I think I need the `_def` lemma.

File: Mathlib/RingTheory/Ideal/Cotangent.lean (hunk 25 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Cotangent.lean]: I think I am needing a general version for span rank of `M` and `k`-dimension of `M/mM` in another place. Can I deal with these things later at that time?

File: Mathlib/RingTheory/RegularLocalRing.lean (hunk 9 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing.lean]: Maybe I forgot to respond this? I think `mk_iff` didn't work correctly here. Since I want the one based on Noetherian local ring.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,77 @@
...
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A Noetherian local ring is said to be regular if its maximal ideal
+can be generated by `dim R` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
+  spanFinrank_maximalIdeal : (maximalIdeal R).spanFinrank = ringKrullDim R
+
+lemma isRegularLocalRing_def [IsLocalRing R] [IsNoetherianRing R] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 27]
```diff
@@ -0,0 +1,77 @@
...
+module
+
+public import Mathlib.Algebra.Module.SpanRankOperations
+public import Mathlib.RingTheory.DiscreteValuationRing.Basic
+public import Mathlib.RingTheory.Ideal.KrullsHeightTheorem
+public import Mathlib.RingTheory.KrullDimension.Field
+public import Mathlib.RingTheory.KrullDimension.PID
+
+/-!
+# Define Regular Local Ring
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
# Regular local rings
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 28]
```diff
@@ -0,0 +1,77 @@
...
+
+@[expose] public section
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A Noetherian local ring is said to be regular if its maximal ideal
+can be generated by `dim R` elements. -/
+class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
@[stacks 00KU]
class IsRegularLocalRing : Prop extends IsLocalRing R, IsNoetherianRing R where
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 29]
```diff
@@ -0,0 +1,77 @@
...
+
+lemma of_spanFinrank_maximalIdeal_le [IsLocalRing R] [IsNoetherianRing R]
+    (le : (maximalIdeal R).spanFinrank ≤ ringKrullDim R) : IsRegularLocalRing R :=
+  (isRegularLocalRing_def _).mpr (le_antisymm le (ringKrullDim_le_spanFinrank_maximalIdeal R))
+
+variable {R} in
+lemma of_ringEquiv [IsRegularLocalRing R] {R' : Type*} [CommRing R']
+    (e : R ≃+* R') : IsRegularLocalRing R' := by
+  let _ := e.isLocalRing
+  let _ := isNoetherianRing_of_ringEquiv R e
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
  have := e.isLocalRing
  have := isNoetherianRing_of_ringEquiv R e
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean (hunk 28 above)
Comment (chrisflav) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean]: Could you please also repeat the `(R : Type*) [CommRing R]` in the signature here? This would be a bit more readable.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 30]
```diff
@@ -0,0 +1,79 @@
...
+
+lemma iff_finrank_cotangentSpace [IsLocalRing R] [IsNoetherianRing R] :
+    IsRegularLocalRing R ↔ Module.finrank (ResidueField R) (CotangentSpace R) = ringKrullDim R := by
+  rw [isRegularLocalRing_iff, spanFinrank_maximalIdeal_eq_finrank_cotangentSpace]
+
+instance {k : Type*} [Field k] : IsRegularLocalRing k := by
+  simp [isRegularLocalRing_iff, maximalIdeal_eq_bot]
+
+set_option backward.isDefEq.respectTransparency false in
+instance [IsDomain R] [IsDiscreteValuationRing R] : IsRegularLocalRing R := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: I think you should merge these two to one statement saying any local PID is regular.

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 31]
```diff
@@ -0,0 +1,79 @@
...
+/-- A Noetherian local ring is said to be regular if its maximal ideal
+can be generated by `dim R` elements. -/
+@[stacks 00KU]
+class IsRegularLocalRing (R : Type*) [CommRing R] : Prop extends
+    IsLocalRing R, IsNoetherianRing R where
+  spanFinrank_maximalIdeal : (maximalIdeal R).spanFinrank = ringKrullDim R
+
+variable (R : Type*) [CommRing R]
+
+lemma isRegularLocalRing_iff [IsLocalRing R] [IsNoetherianRing R] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean:46]: Can this be generated by `@[mk_iff]`?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean (hunk 31 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean:46]: It isn't generating the correct thing, it put `IsNoetherianRing` and `IsLocalRing` into the iff.

Comment (riccardobrasca) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean:46]: OK, let's keep your version then.
